US08476432B2
2-[(4R,6S)-6-hydroxymethyl-2,2-dimethyl-[1,3]dioxan-4-yl]-N-methoxy-N-methyl-acetamide (10.0 g), dichloromethane (150.0 mL), and triethylamine (17.0 mL) were added to a reactor. Methanesulfonyl chloride (4.7 mL) was added to the reaction mixture, which was then stirred for 2 hours. Water (200.0 mL) was added to the reaction mixture under stirring. The separated organic layer was washed with 0.5N hydrochloric acid solution (100.0 mL) and then concentrated under reduced pressure to obtain 2-[(4R,6S)-6-methanesulfonyloxymethyl-2,2-dimethyl-[1,3]dioxan-4-yl]-N-methoxy-N-methyl-acetamide (13 g).

reactant | 2-[(4R,6S)-6-hydroxymethyl-2,2-dimethyl-[1,3]dioxan-4-yl]-N-methoxy-N-methyl-acetamide | 10.0 g | OC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(C)OC | C11H21NO5
reactant | dichloromethane | 150.0 mL | ClCCl | CH2Cl2
reactant | triethylamine | 17.0 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 4.7 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | Water | 200.0 mL | O | H2O
product | 2-[(4R,6S)-6-methanesulfonyloxymethyl-2,2-dimethyl-[1,3]dioxan-4-yl]-N-methoxy-N-methyl-acetamide | 13 g | CS(=O)(=O)OC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(C)OC | C12H23NO7S
